US07511050B2
Step C: 3-methyl-9-pentyl-7-(1,3-thiazol-2-yl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
The mixture of 6-(4-methoxybenzyl)-3-methyl-9-pentyl-7-(1,3-thiazol-2-yl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (100 mg, 0.22 mmol) in trifluoroacetic acid (5 mL, 65 mmol) was stirred at 55° C. overnight. The reaction solution was concentrated and purified using preparative LCMS to yield the desired product. LCMS calculated for C15H18N7OS: 344.1; found: 344.1.

reactant | 6-(4-methoxybenzyl)-3-methyl-9-pentyl-7-(1,3-thiazol-2-yl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 0.22 mmol, 100 mg | COC1=CC=C(CN2C(=NC=3N(C=4N(C(C23)=O)C(=NN4)C)CCCCC)C=4SC=CN4)C=C1 | C23H25N7O2S
reactant | trifluoroacetic acid | 65 mmol, 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-methyl-9-pentyl-7-(1,3-thiazol-2-yl)-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | CC1=NN=C2N1C(C=1NC(=NC1N2CCCCC)C=2SC=CN2)=O | C15H17N7OS
